US08431695B2
Preparation of 3-{4-amino-7-[1-(N,N-dimethylglycyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-5-yl}-N-phenylbenzamide
In a manner similar to the procedure described for the preparation of Example 342 using 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-phenylbenzamide and N,N dimethylglycine as starting material, 10 mg (18%) of the desired product was isolated. 1H NMR (400 MHz, DMSO-d6) δ10.24 (s, 1H), 8.02 (s, 1H), 7.96 (m, 2H), 7.80-7.76 (m, 2H), 7.64-7.58 (m, 2H), 7.38-7.36 (m, 2H), 7.11-7.09 (m, 1H), 6.64 (s, 1H), 4.52-4.44 (m, 1H), 4.10-4.00 (m, 1H), 3.50-3.38 (m, 1H), 3.37 (s, 2H), 3.22-3.16 (m, 1H), 2.80-2.70 (m, 1H), 2.36 (s, 6H), 2.10-2.04 (m, 2H), 1.78-1.61 (m, 1H), 1.59-1.30 (m, 1H); LC-MS m/z [M+H]+, 498.4, RT 2.11 min.

reactant | 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-phenylbenzamide | NC1=NC=NN2C1=C(C=C2C2CCNCC2)C=2C=C(C(=O)NC1=CC=CC=C1)C=CC2 | C24H24N6O
reactant | N,N dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 3-{4-amino-7-[1-(N,N-dimethylglycyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-5-yl}-N-phenylbenzamide | 10 mg, 18% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(CN(C)C)=O)C=2C=C(C(=O)NC1=CC=CC=C1)C=CC2 | C28H31N7O2
